US04372953
1-Phenyl-5-[3-(N-benzoylamino)propylthio]-1,2,3,4-tetrazole (1.7 g) is dissolved in dimethylformamide (30 ml). To the mixture is added with stirring 50% oily sodium hydride (0.3 g) at room temperature. After foaming is finished, the mixture is stirred at 60°-70° C. for one hour. After cooling until room temperature, ethyl bromide (0.8 g) is added dropwise to the resulting mixture, and thereafter, the mixture is stirred at 60°-70° C. for 8 hours. After dimethylformamide is distilled off, the residue is purified by column chromatography (Wakogel C-200), followed by eluting with chloroform to give 1-phenyl-5[3-(N-ethyl-N-benzoylamino)propylthio]-1,2,3,4-tetrazole (1.2 g), as a colorless liquid, nD24 =1.5898.

reactant | 1-Phenyl-5-[3-(N-benzoylamino)propylthio]-1,2,3,4-tetrazole | 1.7 g | C1(=CC=CC=C1)N1N=NN=C1SCCCNC(C1=CC=CC=C1)=O | C17H17N5OS
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | ethyl bromide | 0.8 g | C(C)Br | C2H5Br
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-phenyl-5[3-(N-ethyl-N-benzoylamino)propylthio]-1,2,3,4-tetrazole | 1.2 g | C1(=CC=CC=C1)N1N=NN=C1SCCCN(C(C1=CC=CC=C1)=O)CC | C19H21N5OS
